US06740662B1
To a 20 ml THF solution containing 2.34 g of 3-cyclohexanecarbonyl-2-ethylamino-6-methylpyridine were added 3 ml of monoethyl chloroglutarate and 2.8 ml of 2,6-lutidine, followed by stirring under heating at an oil bath temperature of 60° C. for 1 hour. After the reaction mixture was cooled to room temperature, water was added thereto, and the whole was extracted with ethyl acetate. The organic layer was washed with 3M hydrochloric acid, saturated sodium bicarbonate aqueous solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated and 1.00 g of sodium methoxide was added to a 20 ml ethanol solution of the resulting residue, followed by heating under reflux for 1 hour. Then, 20 ml of a 1M sodium hydroxide aqueous solution was added to the reaction solution, followed by heating under reflex for another 1 hour. After the mixture was cooled to room temperature, water was added thereto, and the mixture was neutralized with 1M hydrochloric acid and then extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was recrystallized from ethanol-water to obtain 764 mg of 3-(4-cyclohexyl-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl)propanoic acid as colorless crystals.

reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | 3-cyclohexanecarbonyl-2-ethylamino-6-methylpyridine | 2.34 g | C1(CCCCC1)C(=O)C=1C(=NC(=CC1)C)NCC | C15H22N2O
reactant | monoethyl chloroglutarate | 3 ml | ClC(C(=O)OCC)CCC(=O)[O-]
reactant | 2,6-lutidine | 2.8 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | water | O | H2O
product | 3-(4-cyclohexyl-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl)propanoic acid | 764 mg | C1(CCCCC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)CCC(=O)O | C20H26N2O3
